US04032461
Following the procedure of Example 1, 0.4 mole of N-hydroxymethyl-2-isobutylacrylamide is reacted with 0.8 mole of diethoxypropyl hydrogen phosphorotetrathioate to yield N-(diethoxypropylthiophosphinothioylthiomethyl) 2-(diethoxypropylthiophosphinothioylthiomethyl)-4-methylvaleramide.

reactant | N-hydroxymethyl-2-isobutylacrylamide | 0.4 mole | OCNC(C(=C)CC(C)C)=O | C8H15NO2
reactant | diethoxypropyl hydrogen phosphorotetrathioate | 0.8 mole | P(=S)(SCCC(OCC)OCC)(S)[S-]
product | N-(diethoxypropylthiophosphinothioylthiomethyl) 2-(diethoxypropylthiophosphinothioylthiomethyl)-4-methylvaleramide | C(C)OC(CCSP(=S)SCNC(C(CC(C)C)CSP(=S)SCCC(OCC)OCC)=O)OCC | C22H47NO5P2S6
